US07060844B2
A solution of 3-(3-isocyanatomethyl-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one (70 mg, 0.23 mmol) and 4-(2-aminoethyl)morpholine (90.0 μl, 0.69 mmol) in THF (2.0 ml) was stirred at room temperature for 25 minutes. The reaction was heated for 5 minutes at 60° C. and then partitioned between EtOAc and water. The organic layer was washed with saturated NaHCO3 aqueous solution, and water, and then extracted with 4% HCl aqueous solution. The combined aqueous layers were basified with saturated NaHCO3 aqueous solution and extracted with EtOAc. The combined organic layers were washed with brine, dried with anhydrous Na2SO4, and rotary evaporated to a yellow foam. The yellow foam was chromatographed through silica gel column (CHCl3 to 5% MeOH/CHCl3 gradient) to afford 1-(2-morpholin-4-yl-ethyl)-3-[3-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-ylmethyl]-urea as a yellow foam (18 mg, 18%).

reactant | 3-(3-isocyanatomethyl-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one | 0.23 mmol, 70 mg | N(=C=O)CC1OC(C2=CC=CC=C12)=C1C(NC2=CC=CC=C12)=O | C18H12N2O3
reactant | 4-(2-aminoethyl)morpholine | 0.69 mmol, 90.0 μl | NCCN1CCOCC1 | C6H14N2O
solvent | THF | 2.0 ml | C1CCOC1 | C4H8O
product | 1-(2-morpholin-4-yl-ethyl)-3-[3-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-ylmethyl]-urea | 18 mg, 18% | N1(CCOCC1)CCNC(=O)NCC1OC(C2=CC=CC=C12)=C1C(NC2=CC=CC=C12)=O | C24H26N4O4
